US05180735
To a solution of fumagillol (230 mg) in ethanol (2 ml) was added a 5% aqueous solution of hydrobromic acid (1 ml), and the mixture was stirred for one hour at room temperatures. The reaction mixture was neutralized with a saturated aqueous solution of sodium hydrogencarbonate, followed by concentration under reduced pressure. The concentrate was purified by means of a silica gel column chromatography (carrier 10 g, developing solvent: hexane-ethyl acetate=7:3) to afford 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy1-bromomethyl-1,4-cyclohexanediol (242 mg: yield 80%) as a colorless oily product.

reactant | fumagillol | 230 mg | CC(=CC[C@@H]1[C@@](O1)(C)[C@H]2[C@@H]([C@@H](CC[C@]23CO3)O)OC)C | C16H26O4
reactant | hydrobromic acid | 1 ml | Br | BrH
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | 2-(1,2-epoxy-1,5-dimethyl-4-hexenyl)-3-methoxy1-bromomethyl-1,4-cyclohexanediol | 242 mg, yield 80% | O1C(C1CC=C(C)C)(C)C1C(CCC(C1OC)O)(O)CBr | C16H27BrO4
